US08455646B2
Preparation of (S)-methyl 2-(methylsulfonyloxy)-2-phenylacetate (I5)
To a solution of (S)-methyl 2-hydroxy-2-phenylacetate (20.0 g, 120 mmol) in DCM (240 mL) maintained at 0° C. under N2 flowstream, are added mesylchloride (11.2 mL, 144 mmol) and TEA (20.1 mL, 144 mmol) and the mixture is stirred at RT for 1 hour (UPLC-MS monitoring: complete conversion). The mixture is cooled to 0° C., 0.1N HCl (240 mL) is added and the desired compound is extracted with DCM (2×200 mL). The combined DCM phases are dried over Na2SO4, filtered and evaporated to dryness. The resulting crude is purified by filtration through a silica bed eluting with DCM, obtaining 22.4 g of the title compound as white solid (76% yield).

reactant | (S)-methyl 2-hydroxy-2-phenylacetate | 120 mmol, 20.0 g | O[C@H](C(=O)OC)C1=CC=CC=C1 | C9H10O3
reactant | mesylchloride | 144 mmol, 11.2 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | HCl | 0.1N, 240 mL | Cl | ClH
solvent | DCM | 240 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-(methylsulfonyloxy)-2-phenylacetate | 22.4 g, 76% yield | CS(=O)(=O)O[C@H](C(=O)OC)C1=CC=CC=C1 | C10H12O5S
